US07034045B1
Preparation of N-[4-(1-Hydroxy-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]benzamide
Into a 100 mL single-neck flask, 77 mg of benzoyl chloride was added dropwise to 135 mg of [2-(4-aminophenyl)-2-hydroxypropyl][(methylethyl)sulfonyl]amine and 56 mg of triethylamine in THF (20 mL) while stirring under a nitrogen atmosphere at room temperature. The reaction was allowed to stir at this temperature for 2 h. The mixture was then poured into H2O and the desired product was extracted into ethyl acetate. The organic layer was backwashed once with H2O, dried over K2CO3, and concentrated under reduced vacuum to yield 233 mg as a solid. This material was purified via silica gel chromatography employing the Chromatotron, using a 2000 micron rotor and eluting with a solvent of ethyl acetate to yield the intermediate title compound (151 mg, 80%) as a white solid. Ion spray M.S. 375.2 (M*−1).

reactant | benzoyl chloride | 77 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | [2-(4-aminophenyl)-2-hydroxypropyl][(methylethyl)sulfonyl]amine | 135 mg | NC1=CC=C(C=C1)C(CNS(=O)(=O)C(C)C)(C)O | C12H20N2O3S
reactant | triethylamine | 56 mg | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[4-(1-Hydroxy-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]benzamide | 151 mg, 80% | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C19H24N2O4S
